US04064059
Dodecylidene-4-Amino-1,2,4-Triazole
4-amino-1,2,4-triazole (8.4g.), didecyl aldehyde (18.4g.) and xylene (125 ml.) were heated in a Dean Stack apparatus until the evolution of water ceased. Concentration on the rotary afforded the product as a viscous oil which solidified upon cooling. Yield = 25g. m.p. 40°-3°.

reactant | 4-amino-1,2,4-triazole | 8.4g | NN1C=NN=C1 | C2H4N4
reactant | xylene | 125 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | Dodecylidene-4-Amino-1,2,4-Triazole | C(CCCCCCCCCCC)=C1NN=CN1N | C14H28N4
